US04077965
5-Tert-butoxycarbonylaminomethyl-1,3,4-thiadiazole-2-thiol(1.24 g.) was dissolved in acetone (10 ml.). The solution was added to the aqueous solution (40 ml.) containing sodium bicarbonate (0.84 g.). The mixed solution was warmed on water bath heating at 70°-75° C. To the solution was added all at once 7-aminocephalosporanic acid (1.35 g.) at 55° C. The mixture was stirred at 65°-70° C for 2 hrs. and then cooled to 0°-5° C with ice. The reaction mixture was adjusted to pH5.0-5.2 with 10% hydrochloric acid. The precipitating pale yellow substance was separated out by filtration, washed with water and acetone, and then dried to give 7-amino-3-(5-tert-butoxycarbonylaminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (1.28 g.) m.p. over than 220° C.

reactant | 5-Tert-butoxycarbonylaminomethyl-1,3,4-thiadiazole-2-thiol | 1.24 g | C(C)(C)(C)OC(=O)NCC1=NN=C(S1)S | C8H13N3O2S2
reactant | sodium bicarbonate | 0.84 g | C([O-])(O)=O.[Na+]
reactant | 7-aminocephalosporanic acid | 1.35 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 7-amino-3-(5-tert-butoxycarbonylaminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.28 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CNC(=O)OC(C)(C)C)C(=O)O)C1=O | C16H21N5O5S3
